US09377708B2
300 parts by mol of benzene, 200 parts by mol of docosanol (behenyl alcohol), 200 parts by mol of docosanoic acid (behenic acid), and further 10 parts by mol of p-toluenesulfonic acid were added to a reactor equipped with a Dimroth condenser, a Dean-Stark water separator and a thermometer, and sufficiently stirred and dissolved, and thereafter refluxed for 6 hours; and thereafter, a valve of the water separator was opened and azeotropic distillation was carried out. After the azeotropic distillation, the resultant was sufficiently cleaned with sodium hydrogencarbonate, and thereafter dried to thereby distil away benzene. An obtained product was recrystallized, and thereafter cleaned and refined to thereby obtain an ester wax 17 (behenyl behenate). The physical properties of the obtained ester wax 17 are shown in Table 2.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | docosanol | C(CCCCCCCCCCCCCCCCCCCCC)O | C22H46O
reactant | docosanoic acid | C(CCCCCCCCCCCCCCCCCCCCC)(=O)O | C22H44O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | behenyl behenate | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCCCCCCCCCCC | C44H88O2
